US08012956B2
To a solution of ethyl 5-amino-2-methylnicotinate (Fanta, P. E. J. Am. Chem. Soc. 1953, 75, 737) (4.1 g, 22.78 mmol) in DMF (50 ml) was added NBS (4.46 g, 25.06 mmol), and the reaction mixture was stirred at room temperature overnight. The reaction mixture was diluted with water (100 ml) and then extracted with ethyl acetate (3×100 ml). The organic layer was washed with saturated aqueous sodium bicarbonate and brine. After evaporation of solvent, the residue was triturated with ethanol to give ethyl 5-amino-6-bromo-2-methylnicotinate. (5.2 g, 88% yield). 1H NMR (400 MHz, CDCl3): 7.56 (s, 1H), 4.40 (q, J=6.8 Hz, 2H), 4.05 (br, s, 2H), 2.75 (s, 3H), 1.39 (t, J=6.8 Hz, 3H). MS (EI) for C9H1BrN2O2: 259.1 (MH+).

reactant | ethyl 5-amino-2-methylnicotinate | 22.78 mmol, 4.1 g | NC=1C=NC(=C(C(=O)OCC)C1)C | C9H12N2O2
reactant | NBS | 25.06 mmol, 4.46 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
product | ethyl 5-amino-6-bromo-2-methylnicotinate | 88% yield | NC=1C(=NC(=C(C(=O)OCC)C1)C)Br | C9H11BrN2O2
